US07169926B1
A solution of 4-chloro-1-methyl-3-nitro-1H-[1,8]naphthyridin-2-one (1.54 g, 6.43 mmol) (J. Med. Chem. 1992, 35, 2863–2870) in 40 mL of THF was treated with 7.2 mL of 28% aqueous ammonia (6.4 g, 51 mmol). After stirring at 20° C. 17 h, the solvent was evaporated under reduced pressure and water was added to the residue. The resulting precipitate was filtered and washed with water to give to give 4-amino-1-methyl-3-nitro-1H-[1,8]naphthyridin-2-one (1.35 g, 96% yield). 1H-NMR (DMSO): δ 8.74 (m, 2H), 8.35 (s, 2H), 7.38 (dd, 1H, J=8.0, 4.8 Hz), 3.58 (s, 3H).

reactant | 4-chloro-1-methyl-3-nitro-1H-[1,8]naphthyridin-2-one | 6.43 mmol, 1.54 g | ClC1=C(C(N(C2=NC=CC=C12)C)=O)[N+](=O)[O-] | C9H6ClN3O3
reactant | ammonia | 51 mmol, 7.2 mL, 6.4 g | N | H3N
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 4-amino-1-methyl-3-nitro-1H-[1,8]naphthyridin-2-one | 1.35 g, 96% yield | NC1=C(C(N(C2=NC=CC=C12)C)=O)[N+](=O)[O-] | C9H8N4O3
